US06534531B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.0 g, 5.2 mmol, 2 eq) was added to a mixture of 2-amino-5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]thiazole (0.7 g, 2.6 mmol, 1 eq), 1-(1-methylethyl)-4-piperidine carboxylic acid (0.78 g, 3.9 mmol, 1.5 eq), 4-(dimethylamino)pyridine (0.16 g, 1.3 mmol, 0.5 eq), N,N-dimethylformamide (2.6 mL) and CH2Cl2 (7.8 mL). The reaction mixture was stirred at rt for 1 h, diluted with 30 mL of water and extracted with ethyl acetate (2×70 mL). The organic extracts were dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography on silica gel eluting with a gradient of 5-10% triethylamine in ethyl acetate. The material was recrystallized from ethanol and water to provide 0.93 g (85%) of N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]- 1-(1-methylethyl)-4-piperidinecarboxamide as a yellowish solid. MS: 423 [M+H]+; HPLC: 100% at 3.15 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.2% phosphoric acid, 4 mL/min, monitoring at 220 nm).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.2 mmol, 1.0 g, 2 eq | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]thiazole | 2.6 mmol, 0.7 g, 1 eq | NC=1SC(=CN1)SCC=1OC(=CN1)C(C)(C)C | C11H15N3OS2
reactant | 1-(1-methylethyl)-4-piperidine carboxylic acid | 3.9 mmol, 0.78 g, 1.5 eq | CC(C)N1CCC(CC1)C(=O)O | C9H17NO2
reactant | N,N-dimethylformamide | 2.6 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 1.3 mmol, 0.16 g, 0.5 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 30 mL | O | H2O
solvent | CH2Cl2 | 7.8 mL | C(Cl)Cl | CH2Cl2
product | N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]- 1-(1-methylethyl)-4-piperidinecarboxamide | 0.93 g, 85% | CC(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(=O)C1CCN(CC1)C(C)C | C20H30N4O2S2
